US09079890B2
To 30 mL of EtOAc was added sodium isothiocyanate (0.0970 g, 1.20 mmol), pyridine (0.195 ml, 2.39 mmol) and (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride (0.342 g, 1.20 mmol). The reaction was heated to 60° C. for 15 minutes. To the mixture was added 3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine (0.250 g, 0.798 mmol) and the reaction was stirred overnight at 70° C. The reaction was cooled and diluted with 50 ml EtOAc and 50 ml 1N NaOH. The aqueous layer was extracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated in-vacuo. The residue was purified over silica gel (50% EtOAc/Hexanes) to afford (S)—N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine (0.134 g, 0.255 mmol, 32.0% yield).

reactant | sodium isothiocyanate | 1.20 mmol, 0.0970 g | [N-]=C=S.[Na+]
reactant | pyridine | 2.39 mmol, 0.195 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-2,2,5,5-tetramethyl-N-(methylsulfonyloxy)-1,3-dioxolane-4-carbimidoyl chloride | 1.20 mmol, 0.342 g | CC1(OC([C@@H](O1)C(=NOS(=O)(=O)C)Cl)(C)C)C | C9H16ClNO5S
reactant | 3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-amine | 0.798 mmol, 0.250 g | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)N | C15H15N5OS
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
solvent | NaOH | 1N, 50 ml | [OH-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (S)—N-(3-(1-ethyl-1H-pyrazol-5-yloxy)-5-(pyridin-2-ylthio)pyridin-2-yl)-3-(2,2,5,5-tetramethyl-1,3-dioxolan-4-yl)-1,2,4-thiadiazol-5-amine | 0.255 mmol, 0.134 g, 32.0% yield | C(C)N1N=CC=C1OC=1C(=NC=C(C1)SC1=NC=CC=C1)NC1=NC(=NS1)[C@@H]1OC(OC1(C)C)(C)C | C24H27N7O3S2
